US04784996
7'-Chloro-2',3',4',10'-tetrahydrospiro[1,3-dioxolane-2,10'-pyrimido(1,2-a)indole] (5.71 g) was added to cooled 98% sulphuric acid (30 ml) with stirring. The solution was then poured on to ice (300 ml) and basified to pH9 with conc. ammonia solution. The resulting suspension was stirred with chloroform (100 ml) and, after separation, the aqueous phase was exhaustively extracted with further chloroform. Evaporation of the combined, dried (MgSO4) extracts left a brownish orange solid which was crystallised from benzene-cyclohexane, giving 7-chloro-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one as orange crystals (3.06 g), darkening above 160° and melting from 168°-170° with decomposition.

reactant | 7'-Chloro-2',3',4',10'-tetrahydrospiro[1,3-dioxolane-2,10'-pyrimido(1,2-a)indole] | 5.71 g | ClC=1C=CC=2C3(C=4N(C2C1)CCCN4)OCCO3 | C13H13ClN2O2
reactant | sulphuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-chloro-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | 3.06 g | ClC=1C=CC=2C(C=3N(C2C1)CCCN3)=O | C11H9ClN2O
